US06048823
Preparation of α-(2,4-dichlorophenyl)-α-hydroxymethylene acetonitrile
0.6 g of metal sodium was added to dry ethanol to obtain an ethanol solution of sodium ethoxide. Then, a mixed liquid comprising 37.2 g of 2,4-dichlorophenyl acetonitrile and 22.2 g of ethyl formate, was added thereto under heating to 70° C. After the addition, the mixture was further heated and refluxed for 2 hours and then, left to stand for 1 day. The reaction solution was cooled to 0° C. and then subjected to filtration. After washing with diethyl ether, the sodium salt collected by filtration was added to 130 ml of distilled water, and 9 ml of acetic acid was dropwise added thereto under cooling at 0° C. After the dropwise addition, the mixture was stirred at room temperature for about 30 minutes. Then, the formed precipitate was collected by filtration and washed with water. It was dried to obtain 31.7 g (yield: 74%) of the desired product. Melting point: 162-163° C.

reactant | 2,4-dichlorophenyl acetonitrile | 37.2 g | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | ethyl formate | 22.2 g | C(=O)OCC | C3H6O2
product | α-(2,4-dichlorophenyl)-α-hydroxymethylene acetonitrile | 31.7 g, yield: 74% | ClC1=C(C=CC(=C1)Cl)C(C#N)=CO | C9H5Cl2NO
